US04336375
7-[2-(4-Ethyl-2,3-dioxo-1-piperazinecarboxamido)-2-(p-hydroxyphenyl)acetamido]-3-[4-amino-5-(3,5-dimethyl-1-pyrazolyl)-1,2,4-triazol-3-ylthiomethyl]-3-cephem-4-carboxylic acid
A suspension of 294.78 mg. of 7-[2-(4-ethyl-2,3-dioxo-1-piperazinecarboxamido)-2-(p-hydroxyphenyl)acetamido]-3-(hydroxymethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, 3-acetate and 157.7 mg. of 4-amino-5-(3,5-dimethyl-1-pyrazolyl)-4H-1,2,4-triazole-3-thiol in 10 ml. of water is adjusted to pH 6.5 with aqueous sodium carbonate. A 2 ml. portion of acetone is added producing solution. This solution is stirred at 60°-63° C. for 51/2 hours, then stripped free of acetone under reduced pressure and acidified to pH 2.0 with 2 N hydrochloric acid. The resulting solid is filtered, washed repeatedly with ethyl acetate, then with ether and dried, giving 190 mg. of the desired product as a yellow solid.

reactant | 7-[2-(4-ethyl-2,3-dioxo-1-piperazinecarboxamido)-2-(p-hydroxyphenyl)acetamido]-3-(hydroxymethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)N1C(C(N(CC1)C(=O)NC(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)CO)C1=CC=C(C=C1)O)=O)=O | C23H25N5O9S
reactant | 4-amino-5-(3,5-dimethyl-1-pyrazolyl)-4H-1,2,4-triazole-3-thiol | NN1C(=NN=C1N1N=C(C=C1C)C)S | C7H10N6S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 7-[2-(4-Ethyl-2,3-dioxo-1-piperazinecarboxamido)-2-(p-hydroxyphenyl)acetamido]-3-[4-amino-5-(3,5-dimethyl-1-pyrazolyl)-1,2,4-triazol-3-ylthiomethyl]-3-cephem-4-carboxylic acid | C(C)N1C(C(N(CC1)C(=O)NC(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(N2N)N2N=C(C=C2C)C)C(=O)O)C1=O)C1=CC=C(C=C1)O)=O)=O | C30H33N11O8S2
